US09034898B2
Step 1.2. 1-benzyl-6-chloro-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid
A molar solution of sodium hydroxide (116 mL/0.116 mol) is added to a solution of ethyl 1-benzyl-6-chloro-1H-pyrazolo[3,4-b]pyridine-4-carboxylate (30.5 g/96.8 mmol) in 195 mL of THF. The mixture is stirred at ambient temperature for 2 hours and then run into a saturated aqueous solution of NaHCO3. The aqueous phase is washed with ethyl acetate and then acidified with a solution of KHSO4 (1 M) and extracted with EtOAc. The organic phase is dried over sodium sulphate and then concentrated to dryness. The product is taken up with diisopropyl ether, filtered, and then dried under vacuum to give 27.3 g of a pale yellow powder (yield: 98%).

reactant | sodium hydroxide | 0.116 mol, 116 mL | [OH-].[Na+]
reactant | ethyl 1-benzyl-6-chloro-1H-pyrazolo[3,4-b]pyridine-4-carboxylate | 96.8 mmol, 30.5 g | C(C1=CC=CC=C1)N1N=CC2=C1N=C(C=C2C(=O)OCC)Cl | C16H14ClN3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 195 mL | C1CCOC1 | C4H8O
product | 1-benzyl-6-chloro-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid | 27.3 g, yield: 98% | C(C1=CC=CC=C1)N1N=CC2=C1N=C(C=C2C(=O)O)Cl | C14H10ClN3O2
